US06544984B1
Methyl 1-Benzoyl-4-(4-but-2-ynyloxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate
To a stirred solution of 1.26 g (4.82 mmol) of triphenylphosphine in 15 ml of toluene-tetrahydrofuran (4:1) under nitrogen was added 360 uL (4.82 mmol) of 2-butyn-1-ol and 1.5 g of (3.22 mmol)of methyl 1-benzoyl-4-(4-hydroxybenzene-sulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate. To the stirred mixture was added slowly 759 uL of diethyl azodicarboxylate and the reddish clear solution stirred overnight at room temperature. The solvent was removed under vacuum and CH2Cl2 added. The CH2Cl2 was washed with H2O and brine, dried (Na2SO4) and the solvent removed. The residue was chromatographed on silica gel with hexane-ethyl acetate (1:1) to give 1.65 g of white solid; Mass Spectrum (ES) 519 (M+H); Anal Calc'd for C28H26N2O6S: C, 64.9; H, 5:1; N, 5.4. Found: C, 60.5; H, 5.2; N, 6.9.

reactant | triphenylphosphine | 4.82 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-butyn-1-ol | 4.82 mmol, 360 uL | C(C#CC)O | C4H6O
reactant | methyl 1-benzoyl-4-(4-hydroxybenzene-sulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 3.22 mmol, 1.5 g | C(C1=CC=CC=C1)(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O)C(=O)OC | C24H22N2O6S
reactant | diethyl azodicarboxylate | 759 uL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene tetrahydrofuran | 15 ml | C1(=CC=CC=C1)C.O1CCCC1
product | Methyl 1-Benzoyl-4-(4-but-2-ynyloxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylate | 1.65 g | C(C1=CC=CC=C1)(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OCC#CC)C(=O)OC | C28H26N2O6S
